Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Bactrim
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ G2P1 w hx of endometriosis and fibromyalgia 
who presents with abdominal pain.

Patient states she developed abdominal pain around 4 days ago, 
mostly located in right lower quadrant. This was associated with 
vaginal bleeding which she describes as slightly worse than 
spotting - she reports that her LMP was 1 week ago and had 
completely stopped bleeding prior to this. Also reports 
associated fevers up to 102.3, chills, nausea and vomiting, and 
diarrhea for the past few days as well. She does not report any 
vaginal discharge, dysuria, burning with urination. She does 
report diffuse joint pains, which is normal for her with 
fibromyalgia, though this is worse than normal. 

Regarding her fibromyalgia, she reports that she had been on 
lyrica in the past, which did not help. She then trialed 
tramadol without relief. She reports that for the past several 
months she has been on oxycodone-acetaminophen which she has 
taken 4x a day - she confirms with me that this every day for 
the past several months, though of note reported to nursing 
staff that she has not been taking this as is unable to afford 
it. She plans to establish with a pain clinic next week. She 
last saw her PCP several months ago. 

Regarding her anxiety, states she takes Xanax takes 2mg BID - 
also prescribed by her PCP. 

In the ED:

Initial vital signs were notable for: T 98.0, HR 108, BP 131/70, 
RR 16, 100% RA 

Exam notable for:
uncomfortable, tearful at times
RRR, CTAB
R suprapubic pain on palpation, no guarding or peritoneal signs
CVA tenderness as well on light palpation
pelvic exam: no erythema of the labia majora or minora, not 
tender to palpation, no bleeding noted, cervix was well 
visualized with no bleeding noted, there was some white 
discharge which she reports is at baseline and no pus was noted. 
BV and Gon/Chlam swabs were obtained.

Labs were notable for:

- CBC: WBC 9.9 (65%n), hgb 12.4, plt 252

- lytes:  
141 / 107 / 9     AGap=11 
-------------- 84 
4.0 \ 23 \ 0.7 

- Lactate:1.5

- cervical GC/CT swab pending 

Studies performed include:
- CT a/p w/ contrast showing no acute intra-abdominal process. 
Mildly prominent common bile duct. 
- pelvic ultrasound with 1.4 cm endometrial polyp, for which 
endometrial sampling and an OBGYN consultation can be 
considered.

Patient was given:
___ 22:25 IV Morphine Sulfate 4 mg  
___ 23:27 PO/NG OxyCODONE--Acetaminophen (5mg-325mg) 1 
TAB 
___ 02:34 PO Ondansetron ODT 4 mg 
___ 02:34 PO TraMADol 50 mg 
___ 05:28 PO Ondansetron ODT 4 mg
___ 05:37 PO Famotidine 20 mg 
___ 05:37 PO Lidocaine Viscous 2% 10 mL 
___ 05:38 PO Aluminum-Magnesium Hydrox.-Simethicone 30 mL 

___ 06:11 IV LORazepam 1 mg 
___ 07:22 PO OxyCODONE (Immediate Release) 5 mg 
___ 09:02 PO Acetaminophen 650 mg  
___ 09:02 PO/NG ALPRAZolam .5 mg  
___ 12:20 PO OxyCODONE (Immediate Release) 5 mg 
___ 15:08 PO/NG OxyCODONE--Acetaminophen (5mg-325mg) 1 
TAB 
___ 17:35 IV Ondansetron 4 mg 

Patient failed multiple PO challenges in the ED. Therefore 
decision was made to admit to medicine. 

Vitals on transfer: T 98.6, HR 70, BP 110/70, RR 20, 98% RA 

Upon arrival to the floor, recounts history as above. States 
that she currently feels miserable with pain all over. 

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
- endometriosis 
- fibromyalgia 
 
Social History:
___
Family History:
- father - alcohol use disorder
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: T 98.4, HR 83, BP 129/84, RR 16, 100% Ra 
GENERAL: Tired and withdrawn appearing, NAD 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Normal bowel sounds. Abd soft. Patient jumps off bed with 
even superficial palpation in RUQ and RLQ, left side nontender 
to deep palpation
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: somewhat withdrawn affect 

DISCHARGE PHYSICAL EXAM
VS 98.6 120 / ___
GENERAL: well appearing woman in NAD 
EYES: Anicteric, non-injected
ENT: MMM grossly nl OP
CV: RRR nl S1/S2 no g/r/m
RESP: CTAB no w/r/r EWOB
GI: soft, mild TTP in suprapubic region, periumbilical region, 
medial RLQ region, no r/g/rigidity. NABS. 
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: somewhat withdrawn affect 

 
Pertinent Results:
ADMISSION LABS:
- CBC: WBC 9.9 (65%n), hgb 12.4, plt 252
- lytes:  
141 / 107 / 9     AGap=11 
-------------- 84 
4.0 \ 23 \ 0.7 
- Lactate:1.5
- cervical GC/CT swab pending 

MICRO: 
- ___ blood cultures x2 - pending
- ___ urine culture - pending 
- ___ BV swab - pending 

IMAGING: 
- ___ CT a/p w/ contrast:
1. No acute intra-abdominal process.  Normal appendix. 
2. Mildly prominent common bile duct, recommend clinical and 
laboratory correlation. 

- ___ Pelvic ultrasound:
1. 1.4 cm endometrial polyp, for which gynecology consultation 
and possible hysteroscopy can be considered. 
2. Normal ovaries. 
3. Trace free fluid. 

DISCAHRGE LABS
___ 09:10PM BLOOD WBC-10.3* RBC-3.92 Hgb-11.4 Hct-36.5 
MCV-93 MCH-29.1 MCHC-31.2* RDW-13.3 RDWSD-45.3 Plt ___
___ 09:10PM BLOOD Glucose-71 UreaN-15 Creat-0.9 Na-139 
K-4.9 Cl-102 HCO3-24 AnGap-13
___ 09:10PM BLOOD ALT-6 AST-11 AlkPhos-55 TotBili-0.3
___ 09:10PM BLOOD Calcium-8.8 Phos-4.2 Mg-2.3
___ 09:10PM BLOOD Lipase-29
___ 10:15PM BLOOD Lactate-1.5
 
Brief Hospital Course:
Ms. ___ is a ___ G2P1 with a history of endometriosis and 
fibromyalgia admitted with abdominal pain and nausea.

# Abdominal pain
# Possible Endometriosis 
# Nausea and vomiting: Patient presented with acute on chronic 
abdominal pain. UCG neg. CTAP, TVUS without acute pathology 
(notable only for endometrial cyst). No PID or ovarian torsion 
on imaging. LFTs, lipase, lactate WNL. CT/NG and BV were 
negative, as was urine and blood cultures. ___ consulted for 
possible pain from endometrial polyp and recommended outpatient 
___. Patient was treated with pain medication. She was 
observed to be tolerating ___ burgers and fries without 
vomiting. The pharmacy that she reported as where she filled her 
medications did not have record of her filling meds (nor in all 
of the ___ records). Her prior provider (___) 
by report did not have a record of her on file when I called 
them. BY day of discharge patient was tolerating diet, moving 
bowels, ambulating independently. 

# Fever (self reported): Patient reported isolated fever ___ 
prior to admission. No leukocytosis and no fevers were observed 
while hospitalized. CT/NG/BV, urine culture and blood cultures 
were all negative. No further fevers. 

# Fibromyalgia:
# Anxiety:  NC does not participate in PMP so unable to confirm 
fill history of reported percocet and xanax. She gave 
inconsistent history regarding her meds. THe medical staff I 
spoke to in ___ ran her name in ___ system and did not find any 
fill history, I was unable to independently verify her 
medications. Patient reported having bottles at home with fill 
information, but family did not bring them in or send pictures 
as requested. 

Time spent coordinating discharge > 30 minutes
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. MedroxyPROGESTERone Acetate 150 mg IM Q3MONTHS 
2. ALPRAZolam 2 mg PO BID:PRN anxiety 
3. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Gabapentin 200 mg PO TID 
RX *gabapentin 100 mg 2 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6H PRN Disp #*8 Tablet 
Refills:*0 
3.  ALPRAZolam 2 mg PO BID:PRN anxiety  
4.  MedroxyPROGESTERone Acetate 150 mg IM Q3MONTHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to the hospital with abdominal pain. You were 
evaluated with blood tests, a CT scan of your abdomen, and 
ultrasounds. We did not identify a clear reversible cause of 
your pain symptoms, and it may be related to endometriosis. You 
were seen by our OB/GYN doctors and ___ with them 
while you are in ___ (but you will have to call them 
at the number listed below). You can also establish care at the 
medicine clinic if you want (the clinic number is also listed 
below).

You will be discharged with a short course of pain medications 
(including oxycodone and gabapentin).
No other medication changes were made this admission. 

For any further medication refills you will need to speak to 
your regular PCP or OB/GYN

Please take all medications as prescribed and keep all scheduled 
doctor's appointments. Seek medical attention if you develop a 
worsening or recurrence of the same symptoms that originally 
brought you to the hospital, experience any of the warning signs 
listed below, or have any other symptoms that concern you.

It was a pleasure taking care of you!
Your ___ Care Team

 
Followup Instructions:
___